US04590201
A mixture of 4-(2,6-dichlorobenzyl)benzyl bromide (7.49 g, 21.8 mmol) and sodium azide (4.19 g, 64.5 mmol) in absolute ethanol (100 ml) was refluxed 5 hours, cooled, and evaporated under vacuum. The residue was triturated wit diethyl ether (100 ml), filtered, and evaporated under vacuum to provide 6.5 g (98%) 4-(2,6-dichlorobenzoyl)benzyl azide, m.p. 92°-94° C.

reactant | 4-(2,6-dichlorobenzyl)benzyl bromide | 21.8 mmol, 7.49 g | ClC1=C(CC2=CC=C(CBr)C=C2)C(=CC=C1)Cl | C14H11BrCl2
reactant | sodium azide | 64.5 mmol, 4.19 g | [N-]=[N+]=[N-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(2,6-dichlorobenzoyl)benzyl azide | 6.5 g, 98% | ClC1=C(C(=O)C2=CC=C(CN=[N+]=[N-])C=C2)C(=CC=C1)Cl | C14H9Cl2N3O
